US06380238B1
1-[2-(tert-Butoxycarbonylamino)ethyl]-6-bromoindole
To a stirred mixture of 2-(6-bromoindole-1-yl)-1-ethylamine fumarate (1.4 mmol), tert-butanol (3 mL), water (3 mL) and powdered sodium hydroxide (0.22 g, 5.5 mmol) was addded di-tert-butyl-dicarbonate (0.3 g, 1.4 mmol). The mixture was stirred for 16 h and partitioned between water (20 mL) and ethyl acetate (2×30 mL). The organic extracts were combined, washed with brine (2×), dried (magnesium sulfate), concentrated in vacuo and purified by column chromatography [SiO2; heptane-ethyl acetate (5:1)] to give the product (0.25 g, 53% yield) as a white solid: IR νmax (Nujol)/cm−1 1683, 1528, 1459, 1303, 1164, 1060 and 717; NMR δH (400 MHz, CDCl3) 1.44 (9H, s), 3.45-3.51 (2H, m), 4.25-4.30 (2H, m), 4.53 (1H, brs), 6.73 (1H, d, J 3 Hz), 7.05 (1H, d, J 3 Hz), 7.20 (1H, dd, J 7.5, 2 Hz) and 7.50 (1H, d, J 7.5 Hz).

reactant | 2-(6-bromoindole-1-yl)-1-ethylamine fumarate | 1.4 mmol | C(\C=C\C(=O)O)(=O)O.BrC1=CC=C2C=CN(C2=C1)CCN
reactant | tert-butanol | 3 mL | C(C)(C)(C)O | C4H10O
reactant | sodium hydroxide | 5.5 mmol, 0.22 g | [OH-].[Na+]
reactant | di-tert-butyl-dicarbonate | 1.4 mmol, 0.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 3 mL | O | H2O
product | 1-[2-(tert-Butoxycarbonylamino)ethyl]-6-bromoindole | 0.25 g, 53% yield | C(C)(C)(C)OC(=O)NCCN1C=CC2=CC=C(C=C12)Br | C15H19BrN2O2
